US06376488B1
methyl 3-isocyanatothieno[3,2-b]pyridine-2-carboxylate
Methyl 3-aminothieno[3,2-b]pyridine-2-carboxylate (0.624 g, 3.00 mmol), prepared as described in (Journal of Heterocyclic Chemistry, 24: 85 (1987), and triethylamine (0.84 mL, 6.0 mmol) in THF (20 mL) at −78° C. was treated with a 1.93M solution of phosgene in toluene (1.7 mL, 3.3 mmol), stirred for 2 hours at −78° C., concentrated, and used in subsequent steps without further purification.

reactant | Methyl 3-aminothieno[3,2-b]pyridine-2-carboxylate | 3.00 mmol, 0.624 g | NC1=C(SC=2C1=NC=CC2)C(=O)OC | C9H8N2O2S
reactant | triethylamine | 6.0 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 3.3 mmol, 1.7 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | methyl 3-isocyanatothieno[3,2-b]pyridine-2-carboxylate | N(=C=O)C1=C(SC=2C1=NC=CC2)C(=O)OC | C10H6N2O3S
